US05508408
Example 24: 4-[3-(6-methyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
2.05 g of 3-(6-methyl-2-quinolinylmethoxy)aniline and 2.42 g of 2,2-diethylsuccinic acid anhydride are stirred in 30 ml of pyridine for 72 hours at 20° and concentrated by evaporation. The residue is suspended in 25 ml of 2N aqueous hydrochloric acid and the suspension is stirred for 30 min. at 20° and filtered. The precipitate is washed with water and crystallised from ethanol to give the title compound in the form of crystals of m.p. 175°, IR (Nujol): inter alia 3600-2600, 3320, 1685, 1545 cm-1.

reactant | 3-(6-methyl-2-quinolinylmethoxy)aniline | 2.05 g | CC=1C=C2C=CC(=NC2=CC1)COC=1C=C(N)C=CC1 | C17H16N2O
reactant | 2,2-diethylsuccinic acid anhydride | 2.42 g | C(C)C1(C(=O)OC(C1)=O)CC | C8H12O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3-(6-methyl-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | CC=1C=C2C=CC(=NC2=CC1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O | C25H28N2O4
